US04331664
7-[2-Cyclopentyloxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.8 g) was added to a solution of sodium acetate trihydrate (5.8 g) in water (25 ml), and tetrahydrofuran (8.0 ml) was added thereto to give clear solution. The solution was stirred for 16 hours at ambient temperature. To the reaction mixture were added water and ethyl acetate and the mixture was adjusted to pH 6.2 with a saturated aqueous solution of sodium bicarbonate. The separated aqueous layer was washed twice with ethyl acetate and adjusted to pH 3.0 with 10% hydrochloric acid. Precipitates were collected by filtration, washed with water and dried under reduced pressure to give 7-[2-cyclopentyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.63 g), mp 152° to 154° C. (dec.).

reactant | 7-[2-Cyclopentyloxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.8 g | C1(CCCC1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C22H22F3N9O6S3
reactant | sodium acetate trihydrate | 5.8 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | tetrahydrofuran | 8.0 ml | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 25 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[2-cyclopentyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5yl)thiomethyl-3-cephem-4-carboxylic acid | 1.63 g | C1(CCCC1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)N | C20H23N9O5S3
